US06316477B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-3-(1,2,4-oxadiazol-3-yl)pyrazole
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-pyrazolecarboxamide oxime (4.00 g, 11.3 mmol) and triethyl orthoformate (2.45 g, 22.6 mmol) were dissolved in 40 ml of dry acetonitrile, and then p-toluenesulfonic acid monohydrate (0.02 g) was added with stirring at room temperature. After the mixture was stirred at 60° C. for 6 hours, the reaction mixture was cooled to room temperature. The reaction mixture was concentrated under reduced pressure and 50 ml of ethyl acetate was added to the concentrated residue. The organic layer was washed twice with 50 ml of an aqueous saturated sodium hydrogencarbonate solution, and then washed three times with 50 ml of an aqueous saturated sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting concentrated residue was subjected to silica gel column chromatography [eluent: mixed solvent of ethyl acetate and hexane (volume ratio=1:3)] to obtain 3.21 g (7.91 mmol) of the title compound as a pale yellow crystal.

reactant | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-pyrazolecarboxamide oxime | 11.3 mmol, 4.00 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(N)=NO | C11H8Cl2F3N5O
reactant | triethyl orthoformate | 22.6 mmol, 2.45 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | p-toluenesulfonic acid monohydrate | 0.02 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-5-methoxymethylideneamino-3-(1,2,4-oxadiazol-3-yl)pyrazole | 7.91 mmol, 3.21 g, Yield 70% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C=C1N=COC)C1=NOC=N1 | C14H8Cl2F3N5O2
